US04690936
By substituting 2-acetylthiomethyl-5-(p-methoxybenzyloxycarbonylamino)pentanoic acid for the N,S-diacetyl-D,L-cysteine in the procedure of Example 53, N-[2-acetylthiomethyl-5-(p-methoxybenzyloxycarbonylamino)pentanoyl]-L-proline tert-butyl ester is obtained.

reactant | 2-acetylthiomethyl-5-(p-methoxybenzyloxycarbonylamino)pentanoic acid | C(C)(=O)SCC(C(=O)O)CCCNC(=O)OCC1=CC=C(C=C1)OC | C17H23NO6S
reactant | N,S-diacetyl-D,L-cysteine | C(C)(=O)NC(CSC(C)=O)C(=O)O | C7H11NO4S
product | N-[2-acetylthiomethyl-5-(p-methoxybenzyloxycarbonylamino)pentanoyl]-L-proline tert-butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)C(C(CCCNC(=O)OCC1=CC=C(C=C1)OC)CSC(C)=O)=O)=O | C26H38N2O7S
